US06787558B2
g) 7-Benzyloxy-6-bromo-2-methyl-4-pyrrolidin-1-yl-quinoline
A mixture of 7-benzyloxy-6-bromo-4-chloro-2-methyl-quinoline (10.0 g, 27.6 mmol) and pyrrolidine (47 mL, 0.562 mol) was refluxed during 3h. The mixture was cooled down and the pyrrolidine was evaporated under high vacuum. The residue was taken up in dichloromethane, washed with water and brine, dried over sodium sulfate, filtered and the solvents were evaporated under vacuum. 6.9 g of the title compound were obtained. Brown solid, ISP-MS: m/e=399.2 ([M+H]+).

reactant | 7-benzyloxy-6-bromo-4-chloro-2-methyl-quinoline | 27.6 mmol, 10.0 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC(=NC2=C1)C)Cl)Br | C17H13BrClNO
reactant | pyrrolidine | 0.562 mol, 47 mL | N1CCCC1 | C4H9N
product | 7-Benzyloxy-6-bromo-2-methyl-4-pyrrolidin-1-yl-quinoline | 6.9 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC(=NC2=C1)C)N1CCCC1)Br | C21H21BrN2O
